US07435815B2
N-Ethyl-N-(6-methyl-pyridin-2-ylmethyl)-2-[(toluene-2-sulfonyl)-p-tolyl-amino]-acetamide
prepared by reaction of [(toluene-2-sulfonyl)-p-tolyl-amino]-acetic acid with ethyl-(6-methyl-pyridin-2-ylmethyl)-amine

reactant | [(toluene-2-sulfonyl)-p-tolyl-amino]-acetic acid | C=1(C(=CC=CC1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O)C | C16H17NO4S
reactant | ethyl-(6-methyl-pyridin-2-ylmethyl)-amine | C(C)NCC1=NC(=CC=C1)C | C9H14N2
product | N-Ethyl-N-(6-methyl-pyridin-2-ylmethyl)-2-[(toluene-2-sulfonyl)-p-tolyl-amino]-acetamide | C(C)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C=1C(=CC=CC1)C)=O)CC1=NC(=CC=C1)C | C25H29N3O3S
